US04044009
To a 3-necked reaction vessel equipped with stirrer, gas delivery tube, thermometer and reflux condenser is charged 85.1 parts of 3-methoxypropionitrile, 32.0 parts of reagent grade methanol and 300 parts of toluene. The exit from the reflux condenser is connected to a drying tower filled with a commercially available drying agent and a bath is provided for cooling the vessel below 0° C. Hydrochloric acid gas flow is controlled by means of a rotameter and is passed through a calcium chloride filled trap which serves both as a means for drying the gas and as a receiver in case liquid is sucked back into the line. After charging the reagents and toluene, the solution is stirred and cooled to 3° C. and the HCl gas is then fed, while controlling the temperature to -4° to 1° C., until 38.0 parts have been added. The HCl gas is added as rapidly as possible commensurate with complete adsorption and good temperature control. The mixture is then stirred for 15 hours in an ice bath (maximum 10° C.). Crystals of methyl-3-methoxypropionimidate hydrochloride appear 2.25 hours after the HCl addition is complete. 46.5 Hours after the HCl addition is stopped, an 80% yield of methyl-3-methoxypropionimidate hydrochloride is formed.

reactant | 3-methoxypropionitrile | COCCC#N | C4H7NO
reactant | methanol | CO | CH4O
reactant | Hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl-3-methoxypropionimidate hydrochloride | 80% yield | Cl.COC(CCOC)=N | InChI=1S/C5H11NO2.ClH/c1-7-4-3-5(6)8-2;/h6H,3-4H2,1-2H3;1H
